US04571397
Synthesis of 2-tert.-butyl-4-chloro-5-(4,α-dimethylbenzyloxy)-3-(2H)-pyridazinone (Compound No. 1.78)
1.5 g of anhydrous potassium carbonate and 1.3 g of 4-(α-chloroethyl)toluene were added to 1.5 g of 2-tert.-butyl-4-chloro-5-hydroxy-3(2H)-pyridazinone dissolved into 10 ml of N,N-dimethylformamide, and the resulting mixture was heated under stirring in an oil bath of 80° to 110° C. for 4 hours. After being allowed to cool to room temperature, 100 ml of water was added to the reaction mixture, followed by stirring. Oily matter separated from the reaction mixture was extracted with 50 ml of chloroform. The aqueous layer was extracted with 30 ml of chloroform again, the chloroform layers were combined, washed with water, and dried over anhydrous sodium sulfate. Chloroform was distilled off under reduced pressure, and the residue was recrystallized from isopropyl ether-petroleum ether mixer to obtain 1.1 g of the intended compound (Compound No. 1.78) having m.p. 104°-105.5° C. (yield: 48.1%)

reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(α-chloroethyl)toluene | 1.3 g | ClC(C)C1=CC=C(C=C1)C | C9H11Cl
reactant | 2-tert.-butyl-4-chloro-5-hydroxy-3(2H)-pyridazinone | 1.5 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)O | C8H11ClN2O2
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 2-tert.-butyl-4-chloro-5-(4,α-dimethylbenzyloxy)-3-(2H)-pyridazinone | 1.1 g, yield: 48.1% | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)OC(C1=CC=C(C=C1)C)C | C17H21ClN2O2
